US06350756B1
The mixture of 6-iodo-2-picolin-5-ol (235 mg, 1.0 mmol), potassium carbonate (455 mg, 3.3 mmol), ethyl bromoacetate (250 mg, 1.49 mmol) and acetone (15 ml) was refluxed for 15 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 10 ml of dioxane and 14 ml 5% sodium hydroxide solution were added. After the mixture was stirred at room temperature overnight, it was acidified with concentrated hydrochloric acid to pH 3, and then extracted three times with ethyl acetate (20 ml each). Organic phases were combined, washed with water and brine, dried over magnesium sulfate, filtered, and then evaporated in vacuo. The residue was recrystallized from ethanol and petroleum ether to give 165 mg 6-iodo-2-methylpyridine-5-oxyacetic acid as white crystals, mp 170-172° C.

reactant | 6-iodo-2-picolin-5-ol | 1.0 mmol, 235 mg | IC1=C(C=CC(=N1)C)O | C6H6INO
reactant | potassium carbonate | 3.3 mmol, 455 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 1.49 mmol, 250 mg | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 6-iodo-2-methylpyridine-5-oxyacetic acid | 165 mg | IC1=C(C=CC(=N1)C)OCC(=O)O | C8H8INO3
